US05013863
To 34.1 g of isopropyl 2-cyanoethyl(ethyl)phosphinate in 500 ml of isopropanol are added 60 ml of liquid ammonia and 6.8 g of Raney-Nickel. The mixture is heated to 80° and treated with hydrogen at 100 bar. After 11/2 hours hydrogen-uptake stops. The reaction mixture is filtered and the filtrate distilled to give isopropyl 3-aminopropyl(ethyl)phosphinate as a colorless oil, b.p. 75°/13 Pa.

reactant | isopropyl 2-cyanoethyl(ethyl)phosphinate | 34.1 g | C(#N)CCP(OC(C)C)(=O)CC | C8H16NO2P
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
catalyst | Raney-Nickel | 6.8 g | [Ni] | Ni
product | isopropyl 3-aminopropyl(ethyl)phosphinate | NCCCP(OC(C)C)(=O)CC | C8H20NO2P
